US04983606
Working as described in Example 3 but replacing 2-(2-chloroethyl)-6,7-dimethoxy-1(2H)-phthalazinone with an equivalent amount of 2-(3-chloropropyl)-6,7-dimethoxy-1(2H)-phthalazinone obtained as described in Example 13, and replacing N-phenylpiperazine with an equivalent amount of 4-(4-fluorobenzoyl)-piperazine, 2-{3-[4-(4-fluorobenzoyl)-piperidin-1-yl]-propyl}-6,7-dimethoxy-1(2H)-phthalazinone hydrochloride is obtained (m.p. 250°-252° C., from ethyl acetate).

reactant | 2-(2-chloroethyl)-6,7-dimethoxy-1(2H)-phthalazinone | ClCCN1C(C2=CC(=C(C=C2C=N1)OC)OC)=O | C12H13ClN2O3
reactant | 2-(3-chloropropyl)-6,7-dimethoxy-1(2H)-phthalazinone | ClCCCN1C(C2=CC(=C(C=C2C=N1)OC)OC)=O | C13H15ClN2O3
reactant | N-phenylpiperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | 4-(4-fluorobenzoyl)-piperazine | FC1=CC=C(C(=O)N2CCNCC2)C=C1 | C11H13FN2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-{3-[4-(4-fluorobenzoyl)-piperidin-1-yl]-propyl}-6,7-dimethoxy-1(2H)-phthalazinone hydrochloride | Cl.FC1=CC=C(C(=O)C2CCN(CC2)CCCN2C(C3=CC(=C(C=C3C=N2)OC)OC)=O)C=C1 | InChI=1S/C25H28FN3O4.ClH/c1-32-22-14-19-16-27-29(25(31)21(19)15-23(22)33-2)11-3-10-28-12-8-18(9-13-28)24(30)17-4-6-20(26)7-5-17;/h4-7,14-16,18H,3,8-13H2,1-2H3;1H
